US07902363B2
n-Butyllithium (BuLi, 1.6 M in hexanes, 2.4 mL, 3.8 mmol) was added dropwise to a stirred solution of p-n-octyliodobenzene (1.0 g, 3.2 mmol) in dry THF (15 mL) at −78° C. under nitrogen. After stirring for 30 minutes and maintaining the temperature at −78° C., trimethylborate (0.4 g, 3.8 mmol) was added dropwise. The system was allowed to return to room temperature after 1 hour and was left stirring under nitrogen overnight. Concentrated HCl (8 mL) and water (15 mL) were then added and stirring was continued for 2 hours. The mixture was extracted with ether (15 3 mL). The ethereal phase was combined and was washed with brine and water (20 2 mL), dried with MgSO4, and the solvent removed in vacuo to give p-n-octylphenylboronic acid as a white solid (0.63 g, 84% yield).

reactant | n-Butyllithium | 3.8 mmol, 1.6 M, 2.4 mL | C(CCC)[Li]
reactant | p-n-octyliodobenzene | 3.2 mmol, 1.0 g | C(CCCCCCC)C1=CC=C(C=C1)I | C14H21I
reactant | trimethylborate | 3.8 mmol, 0.4 g | COB(OC)OC | C3H9BO3
reactant | HCl | 8 mL | Cl | ClH
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | water | 15 mL | O | H2O
product | p-n-octylphenylboronic acid | 0.63 g, 84% yield | C(CCCCCCC)C1=CC=C(C=C1)B(O)O | C14H23BO2
